US07030118B2
D) 3-Benzyl-2-(2-dimethylamino-vinyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester
Dimethylformamide dimethylacetal (0.625 ml, 4.75 mmol) was added to a solution of 3-benzyl-2-methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid ethyl ester (0.18 g, 0.58 mmol) in DMF (1.0 mL) with 4 Å molecular sieves and the reaction mixture was heated to 140° C. in a sealed tube for 16 h. The reaction mixture was concentrated in vacuo, diluted with EtOAc (50 ml), the organic layer washed with LiCl (10%, 3×50 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound (0.18 g, 85%): 1H NMR (CDCl3) δ 7.46 (d, 1H, J=12.44 Hz), 7.25–7.33 (m, 5H), 7.19 (m, 1H), 6.99 (m, 1H), 5.30 (s, 2H), 4.58 (d, 1H, J=12.49 Hz), 3.90 (s, 3H), 2.85 (s, 6H); MS (ESI+) 353 (M++H).

reactant | Dimethylformamide dimethylacetal | 4.75 mmol, 0.625 ml | COC(N(C)C)OC | C5H13NO2
reactant | 3-benzyl-2-methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid ethyl ester | 0.58 mmol, 0.18 g | C(C)OC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C | C17H17N3O3
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-Benzyl-2-(2-dimethylamino-vinyl)-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | 0.18 g, 85% | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C=CN(C)C | C19H20N4O3
